US06380210B1
(2,5-difluorophenyl)-N-{[5-(hydroxymethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide 0.96 g (2.3 mmole) is treated with 30 mL of thionyl chloride for 15 min a room temperature. The resulting mixture is concentrated in vacuo and partitioned between 100 mL sat NaHCO3 and 100 mL of ethyl acetate. The ethyl acetate layer is dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting oil is chroamtoagraphed 50% ethyl acetate/hexanes to afford 0.9 g (93%) of (2,5-difluorophenyl)-N-{[5-(chloromethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide.

reactant | (2,5-difluorophenyl)-N-{[5-(hydroxymethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide | 2.3 mmole, 0.96 g | FC1=C(C=C(C=C1)F)C(=O)N(CCC)CC1=NC2=C(N1CCC)C=CC(=C2)CO | C22H25F2N3O2
reactant | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
product | (2,5-difluorophenyl)-N-{[5-(chloromethyl)-1-propylbenzimidazol-2-yl]methyl}-N-propylcarboxamide | 0.9 g, 93% | FC1=C(C=C(C=C1)F)C(=O)N(CCC)CC1=NC2=C(N1CCC)C=CC(=C2)CCl | C22H24ClF2N3O
